US08633220B2
To a solution of 3-hexylquinoline-8-carboxylic acid (170 mg, 0.66 mmol), isopropyl 2-(3-aminophenoxy)acetate (207 mg, 0.99 mmol) and N-methylmorpholine (0.18 mL, 1.65 mmol) in DMF (2.0 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (380 mg, 1.0 mmol) and the solution was stirred at room temperature for 16 h. The DMF was removed in vacuo and the residue was partitioned between EtOAc and water. The organic phase was washed with saturated aqueous NaHCO3 (2×) then dried (MgSO4), filtered and concentrated in vacuo. The resulting residue was purified on 12 g silica gel eluting (17:3 hexanes/EtOAc) to afford 259 mg (87%) of isopropyl 2-(3-(3-hexylquinoline-8-carboxamido)phenoxy)acetate.

reactant | 3-hexylquinoline-8-carboxylic acid | 0.66 mmol, 170 mg | C(CCCCC)C=1C=NC2=C(C=CC=C2C1)C(=O)O | C16H19NO2
reactant | isopropyl 2-(3-aminophenoxy)acetate | 0.99 mmol, 207 mg | NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C11H15NO3
reactant | N-methylmorpholine | 1.65 mmol, 0.18 mL | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.0 mmol, 380 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | isopropyl 2-(3-(3-hexylquinoline-8-carboxamido)phenoxy)acetate | 259 mg, 87% | C(CCCCC)C=1C=NC2=C(C=CC=C2C1)C(=O)NC=1C=C(OCC(=O)OC(C)C)C=CC1 | C27H32N2O4
